US05461036
To dodecyl aldehyde (5.0 g) dissolved in methylene chloride was added (carbomethoxymethylene)triphenylphosphorane (9.1 g), and the mixture was stirred for 2 hours. The reaction mixture was concentrated and subjected to chromatography on a silica gel column with eluent systems of n-hexane-ethyl acetate (from 100:1 to 20:1) to give the methyl ester of trans-2-tetradecenoic acid (5.2 g). To the methyl ester dissolved in tetrahydrofuran was added lithium aluminium hydride (0.9 g) under ice-cooling, and the mixture was stirred for 1 hour. The reaction mixture was distributed into ethyl acetate and water, and the ethyl acetate layer was dried, concentrated and subjected to chromatography on a silica gel column with an eluent system of n-hexane-ethyl acetate (50:1) to give trans-2-tetradecenol (3.2 g). To the solution of the trans-2-tridecenol in methylene chloride were added pyridinium chlorochromate (3.5 g) and Celite (5.0 g), and the mixture was stirred. The reaction mixture was filtered and concentrated to give trans-2-tetradecenal (2.3 g).

reactant | trans-2-tridecenol | C(\C=C\CCCCCCCCCC)O | C13H26O
reactant | pyridinium chlorochromate | 3.5 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | trans-2-tetradecenal | 2.3 g | C(\C=C\CCCCCCCCCCC)=O | C14H26O
